US07135466B2
N1-(2-Methylphenyl)-2-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenoxy}acetamide
2-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenoxy}acetic acid (150 mg), WSC.HCl (122 mg), and HOBT.H2O (86 mg) were dissolved in chloroform (5 ml) to prepare a solution. o-Toluidine (0.055 ml) was then added to the solution, and the mixture was heated under reflux for 6 hr. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform. The extract was washed with saturated brine and was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography using chloroform/methanol for development to give the title compound (103 mg, yield 55%).

reactant | 2-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenoxy}acetic acid | 150 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(OCC(=O)O)C=C1 | C19H17NO6
reactant | WSC.HCl | 122 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | o-Toluidine | 0.055 ml | NC=1C(=CC=CC1)C | C7H9N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 86 mg | O | H2O
product | N1-(2-Methylphenyl)-2-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenoxy}acetamide | 103 mg, yield 55% | CC1=C(C=CC=C1)NC(COC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O | C26H24N2O5
